US07531553B2
Preparation X: (R)-2-(5-Nitro-2-trifluoromethyl-phenoxymethyl)-1-(tert-butoxycarbonyl)pyrrolidine.
To a solution of 5-nitro-2-trifluoromethylphenol (2.83 g, 13.7 mmol), (R)-(+)-(tert-butoxy-carbonyl)-2-pyrrolidinemethanol (2.75 g, 13.7 mmol), and PPh3 (3.58 g, 13.7 mmol) in 24 mL THF, cooled at −20° C. was added dropwise over 1.5 h a 12 mL THF solution containing DEAD (2.43 g, 13.9 mmol). The mixture turned a deep red. The reaction was warmed gradually to RT and stirred for 18 h. The reaction was concentrated in vacuo and treated with a small mixture of hexanes and Et2O. After sonication, the solids were filtered off, and the filtrate was concentrated in vacuo. The crude was dissolved in a very small amount of EtOAc and Et2O then diluted with hexanes, which were washed once with 0.1N HCl, 3× with 2N NaOH, and once with brine. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography using 5% EtOAc in hexanes to yield the title compound as a clear thick oil.

reactant | 5-nitro-2-trifluoromethylphenol | 13.7 mmol, 2.83 g | [N+](=O)([O-])C=1C=CC(=C(C1)O)C(F)(F)F | C7H4F3NO3
reactant | (R)-(+)-(tert-butoxy-carbonyl)-2-pyrrolidinemethanol | 13.7 mmol, 2.75 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CO | C10H19NO3
reactant | PPh3 | 13.7 mmol, 3.58 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 13.9 mmol, 2.43 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 24 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | (R)-2-(5-Nitro-2-trifluoromethyl-phenoxymethyl)-1-(tert-butoxycarbonyl)pyrrolidine | [N+](=O)([O-])C=1C=CC(=C(OC[C@@H]2N(CCC2)C(=O)OC(C)(C)C)C1)C(F)(F)F | C17H21F3N2O5
